US08378107B2
Step 3: [3-(3-Cyano-pyridin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester
[4-Methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (0.672 g, 2.1 mmol), 2-chloro-3-pyridinecarbonitrile (0.274 g, 2.0 mmol), and potassium carbonate (0.966 g, 7.0 mmol) were combined in deoxygenated 2:1 DME:H2O (21 mL). Tetrakis(triphenylphosphine)palladium(0) (0.115, 0.1 mmol) was added, and the reaction was stirred at 70° C. for 1 hour. Once no starting material was seen by analytical LCMS and tlc, the mixture was worked-up and purified by silica gel chromatography to give the title compound.

reactant | [4-Methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 2.1 mmol, 0.672 g | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
reactant | 2-chloro-3-pyridinecarbonitrile | 2.0 mmol, 0.274 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | potassium carbonate | 7.0 mmol, 0.966 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [3-(3-Cyano-pyridin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC=CC=C1C#N)=O | C17H16N2O3
